### PR TITLE
[Merged by Bors] - feat(CategoryTheory): categories of homological complexes have a separator

### PR DESCRIPTION
**Pull request by joelriou**
(This also requires the introduction of a typeclass `ComplexShape.HasNoLoop`, which holds for the most common shapes.)

---

- [x] depends on: #19979
- [x] depends on: #20233

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Generator/HomologicalComplex.lean [hunk 1]
```diff
@@ -0,0 +1,71 @@
+/-
+Copyright (c) 2024 Joël Riou. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Joël Riou
+-/
+
+import Mathlib.Algebra.Homology.Double
+import Mathlib.Algebra.Homology.HomologicalComplexLimits
+import Mathlib.CategoryTheory.Generator.Basic
+--import Mathlib.CategoryTheory.Generator.Coproduct
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Generator/HomologicalComplex.lean:10]:
```suggestion
```

File: Mathlib/Algebra/Homology/HasNoLoop.lean [hunk 2]
```diff
@@ -0,0 +1,83 @@
...
+lemma exists_distinct_next_or :
+    (∃ (i : ι), c.Rel i j ∧ i ≠ j) ∨ ∀ (i : ι), ¬ c.Rel i j := by
+  by_cases h : ∃ (i : ι), c.Rel i j
+  · obtain ⟨i, hi⟩ := h
+    refine Or.inl ⟨i, hi, ?_⟩
+    rintro rfl
+    exact c.not_rel_self i hi
+  · exact Or.inr (by simpa using h)
+
+lemma up'_hasNoLoop {α : Type*} [AddZeroClass α] [IsRightCancelAdd α] [IsLeftCancelAdd α]
```
Comment (TwoFX) [inline Mathlib/Algebra/Homology/HasNoLoop.lean:54]:
```suggestion
lemma hasNoLoop_up {α : Type*} [AddZeroClass α] [IsRightCancelAdd α] [IsLeftCancelAdd α]
```
and similar below.

File: Mathlib/Algebra/Homology/Homotopy.lean [hunk 3]
```diff
@@ -495,14 +495,14 @@ def mkInductiveAux₂ :
 
 @[simp] theorem mkInductiveAux₂_zero :
     mkInductiveAux₂ e zero comm_zero one comm_one succ 0 =
-      ⟨0, zero ≫ (Q.xPrevIso rfl).inv, mkInductiveAux₂.proof_2 e zero comm_zero⟩ :=
+      ⟨0, zero ≫ (Q.xPrevIso rfl).inv, mkInductiveAux₂.proof_3 e zero comm_zero⟩ :=
```
Comment (TwoFX) [inline Mathlib/Algebra/Homology/Homotopy.lean:498]: This is pretty scary, do we understand why this suddenly changes?

File: Mathlib/Algebra/Homology/Double.lean [hunk 4]
```diff
@@ -182,4 +183,33 @@ noncomputable def evalCompCoyonedaCorepresentableBySingle (i : ι) [DecidableEq
...
 
+variable [c.HasNoLoop] [DecidableEq ι]
+
+open Classical in
+/-- Given a complex shape `c : ComplexShape ι` (with no loop), `X : C` and `j : ι`,
+this is a quite explicit choice of corepresentative of the functor which sends
+`K : HomologicalComplex C c` to `X ⟶ K.X j`. -/
+noncomputable def evalCompCoyonedaCorepresentative (X : C) (j : ι) :
+    HomologicalComplex C c :=
+  if hj : ∃ (k : ι), c.Rel j k ∧ j ≠ k then
```
Comment (TwoFX) [inline Mathlib/Algebra/Homology/Double.lean:194]: You have probably considered this, but I'll mention that under the `HasNoLoop` assumption this is equivalent to
```suggestion
  if hj : ∃ (k : ι), c.Rel j k then
```
 and then you could derive the `j ≠ h.choose` in the lemma below (probaby most easily with a new lemma `not_rel_of_eq`). But it makes no difference.

File: Mathlib/Algebra/Homology/Homotopy.lean (hunk 3 above)
Comment (joelriou) [reply Mathlib/Algebra/Homology/Homotopy.lean:498]: Thanks for the suggestions. Here, I think it is related to the changes I have made in the `ComplexShape` file.

**Review by TwoFX — APPROVED** [review]
Thanks!
bors r+
